US08445684B2
3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-[3-(phenethoxymethyl)phenyl]pyridine
A solution/suspension of 1-iodo-3-(phenethoxymethyl)benzene (300 mg, 0.89 mmol, 1.0 equiv.), 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine (380 mg, 0.89 mmol), CsF (271 mg, 1.78 mmol, 2.0 equiv.), CuI (17 mg, 0.09 mmol, 0.10 equiv.) and Pd(PPh3)4 (46 mg, 0.04 mmol, 0.05 equiv.) in anhydrous DMF (5 mL) was stirred for 5 h at 50° C. under nitrogen. The reaction progress was monitored by TLC (EtOAc/petroleum ether 1:1). The mixture was concentrated under vacuum, the residue was diluted with water and extracted with EtOAc (2×50 mL), and the combined organic layers were dried over Na2SO4. After concentration in vacuo, the residue was applied onto a silica gel column, which was eluted with EtOAc/petroleum ether/Et3N 3:6:0.5 to give the title compound (230 mg, 55%) as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ 8.48 (s, 1H), 8.36 (d, J=2.1 Hz, 1H), 7.53-7.43 (m, 4H), 7.38 (s, 1H), 7.35-7.23 (m, 5H), 4.62 (s, 3H), 4.43 (s, 1H), 4.25 (dd, J=7.5, 3.0 Hz, 1H), 3.94 (t, J=7.5 Hz, 2H), 3.77 (t, J=7.5 Hz, 2H), 2.99 (t, J=7.2 Hz, 2H), 2.43-2.33 (m, 2H), 1.43 (s, 9H). LC-MS (ESI) m/z 475 (M+H+).

reactant | 1-iodo-3-(phenethoxymethyl)benzene | 0.89 mmol, 300 mg, 1.0 equiv. | IC1=CC(=CC=C1)COCCC1=CC=CC=C1 | C15H15IO
reactant | 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine | 0.89 mmol, 380 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)[Sn](C)(C)C
reactant | CsF | 1.78 mmol, 271 mg, 2.0 equiv. | [F-].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.09 mmol, 17 mg, 0.10 equiv. | [Cu]I
catalyst | Pd(PPh3)4 | 0.04 mmol, 46 mg, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-[3-(phenethoxymethyl)phenyl]pyridine | 230 mg, 55% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)C1=CC(=CC=C1)COCCC1=CC=CC=C1 | C29H34N2O4
